US04115575
6.0 g of 5-(2-methylsulphonyloxyethyl)-uracil are suspended in 100 ml of absolute methanol and the suspension is heated to 120°-130° C. for one hour in a pressure vessel. After cooling to room temperature, the crystals obtained are filtered off and washed with methanol. 5-(2-Methoxyethyl)-uracil, melting point 232°-234° C., is obtained.

reactant | 5-(2-methylsulphonyloxyethyl)-uracil | 6.0 g | CS(=O)(=O)OCCC=1C(NC(NC1)=O)=O | C7H10N2O5S
reactant | methanol | 100 ml | CO | CH4O
product | 5-(2-Methoxyethyl)-uracil | COCCC=1C(NC(NC1)=O)=O | C7H10N2O3
